US04683223
A mixture of 2.25 g of 6-chloropurine riboside, 1.99 g of 8-chloro-3-chromanylamine hydrochloride, and 1.98 g triethylamine is refluxed in 55 ml of ethanol under nitrogen for 22 hrs. Upon cooling, solid material crystallizes out, which is filtered and retreated with boiling ethanol. Solid material obtained is filtered and dried affording 1.68 g (50%) of N6 -[8-chloro-3-chromanylamino]adenosine having a melting point of 137°-139° C.

reactant | 6-chloropurine riboside | 2.25 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | 8-chloro-3-chromanylamine hydrochloride | 1.99 g | Cl.ClC=1C=CC=C2CC(COC12)N
reactant | triethylamine | 1.98 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 55 ml | C(C)O | C2H6O
product | N6 -[8-chloro-3-chromanylamino]adenosine | 1.68 g, 50% | ClC=1C=CC=C2CC(COC12)NNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C19H21ClN6O5
